US04024260
A solution of 2-[(2-aminoethyl)thiomethyl]-3-bromopyridine (from the dihydrobromide, 3.0 g) and 1-nitro-2,2-bis-methylthioethylene (1.21 g) in acetonitrile (30 ml) was set aside at room temperature for 3 days. The product was chromatographed on a column of silica gel with elution by ethyl acetate, to give 1-nitro-2-methylthio-2-[2-(3-bromo-2-pyridylmethylthio)ethylamino]ethylene (1.2 g), m.p. 79°-80° (from ethanol-ether).

reactant | 2-[(2-aminoethyl)thiomethyl]-3-bromopyridine | NCCSCC1=NC=CC=C1Br | C8H11BrN2S
reactant | 1-nitro-2,2-bis-methylthioethylene | 1.21 g | [N+](=O)([O-])C=C(SC)SC | C4H7NO2S2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 1-nitro-2-methylthio-2-[2-(3-bromo-2-pyridylmethylthio)ethylamino]ethylene | 1.2 g | [N+](=O)([O-])C=C(NCCSCC1=NC=CC=C1Br)SC | C11H14BrN3O2S2
